US08017602B2
Step ii) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide
A solution of N-(2,2-dimethoxyethyl)cyclohexanamine (21.5 g) in tetrahydrofuran (30 mL) was added to a solution of 3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid in tetrahydrofuran (105 mL) at 20° C. Tetrahydrofuran (15 mL) was added, followed by triethylamine (51.8 mL), followed by a solution of T3P in tetrahydrofuran (121.9 mL of a 1.62M solution). The solution was stirred at 20° C. for 1 h then cooled to 10° C. Pre-chilled (10° C.) 0.5M sodium bicarbonate solution (225 mL) was added, followed by iso-propyl acetate (150 mL). After mixing the layers were separated and the organic layer washed with 20% w/w sodium chloride solution (150 mL), then evaporated to dryness to afford the subtitled compound as a brown oil (48.6 g). MS [M+H-MeOH]+=412.20 (100%) (MultiMode+) [M+H]+=444.20 (MultiMode+) 1H NMR (300 MHz, CDCl3) δ 7.75 (s, 1H), 7.62 (s, 1H), 7.33-7.23 (m, 3H), 7.10-7.03 (m, 1H), 4.61 (t, 0.7H), 4.36 (t, 0.3H), 3.94 (s, 3H), 3.79 (q, 2H), 3.69 (q, 2H), 3.62-3.43 (m, 1.5H), 3.40 (s, 3H), 3.38 (s, 3H), 3.30 (d, 1.5H), 2.89 (q, 2H), 2.69 (quintet, 2H), 1.86-0.99 (m, 10H); approx:2:1 ratio of rotamers

reactant | N-(2,2-dimethoxyethyl)cyclohexanamine | 21.5 g | COC(CNC1CCCCC1)OC | C10H21NO2
reactant | 3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid | CN1N=CC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C15H18N2O3
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | sodium bicarbonate | 0.5M, 225 mL | C([O-])(O)=O.[Na+]
reactant | iso-propyl acetate | 150 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 105 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 51.8 mL | C(C)N(CC)CC | C6H15N
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 48.6 g | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C)=O)CC(OC)OC | C25H37N3O4
